US08541575B2
Synthesis of 4-[3-(3-Amino-phenyl)-4-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
To crude 4-[3-(3-nitro-phenyl)-4-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.75 mmol) in methanol (20 mL) Pd/C 10% (190 mg) was added. The reaction was stirred under hydrogen atmosphere (45 psi) at room temperature for six hours. The suspension was filtered to remove the catalyst, and then concentrated to give the crude product that was used in the next step without further purification.

reactant | 4-[3-(3-nitro-phenyl)-4-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.75 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(C(=C1)C1=CC=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C24H27N5O4
solvent | methanol | 20 mL, 190 mg | CO | CH4O
product | 4-[3-(3-Amino-phenyl)-4-pyridin-4-yl-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(C(=C1)C1=CC=NC=C1)C1=CC(=CC=C1)N | C24H29N5O2
